US06166028
[1,2,3]Thiadiazole-4-carboxylic acid {4-[3-(2,5-dichloro-phenyl)-thioureido]-phenyl }-amide
To a solution of 2,5-dichloroaniline (0.16 g) in tetrahydrofuran (20 mL) is added freshly prepared 1,1'-thiocarbonyldiimidazole (0.20 g) and the mixture is stirred for approximately 30 minutes at room temperature. [1,2,3]-Thiadiazole-4-carboxylic acid (4-amino-phenyl) amide (0.22 g) is added to the reaction flask and the mixture is stirred for approximately 6 hours. The solvent is then removed by evaporation under reduced pressure and warm acetonitrile (3 mL) is added. After 15 hours the mixture is filtered and the collected precipitate is washed with acetonitrile then diethyl ether, and air dried to provide the desired product as a white powder.

reactant | 2,5-dichloroaniline | 0.16 g | ClC1=C(N)C=C(C=C1)Cl | C6H5Cl2N
reactant | 1,1'-thiocarbonyldiimidazole | 0.20 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | [1,2,3]-Thiadiazole-4-carboxylic acid (4-amino-phenyl) amide | 0.22 g | NC1=CC=C(C=C1)NC(=O)C=1N=NSC1 | C9H8N4OS
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | [1,2,3]Thiadiazole-4-carboxylic acid {4-[3-(2,5-dichloro-phenyl)-thioureido]-phenyl }-amide | ClC1=C(C=C(C=C1)Cl)NC(NC1=CC=C(C=C1)NC(=O)C=1N=NSC1)=S | C16H11Cl2N5OS2
